US04898859
2-(4-Nitrophthalimido)acetyl chloride
To a suspension of 2-(4-nitrophthalimido)acetic acid (58.6 g) in toluene (250 ml) was added phosphorus pentachloride (48.8 g) and the mixture was refluxed for 3 hours. After completion of the reaction, the solvent was removed under reduced pressure. By addition of hexane to the residue, the title compound (62.3 g) was obtained as light yellow sharp-pointed needles.

reactant | 2-(4-nitrophthalimido)acetic acid | 58.6 g | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)CC(=O)O)=CC1 | C10H6N2O6
reactant | phosphorus pentachloride | 48.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Nitrophthalimido)acetyl chloride | 62.3 g | [N+](=O)([O-])C=1C=C2C(C(=O)N(C2=O)CC(=O)Cl)=CC1 | C10H5ClN2O5
